US08486950B2
2,6-dichloro-4-cyano-N-(2-(pyrimidin-4-ylamino)pyridin-4-yl)benzamide
A mixture of N-(2-bromopyridin-4-yl)-2,6-dichloro-4-cyanobenzamide (74 mg, 0.20 mmol), pyrimidin-4-amine (38 mg, 0.40 mmol), Pd2(dba)3 (18 mg, 0.020 mmol), Xantphos (23 mg, 0.040 mmol), Cs2CO3 (131 mg, 0.40 mmol), dioxane (1.2 mL) was heated to 140° C. for 1 hour in a microwave reactor under nitrogen atmosphere. The mixture was filtered through Celite and concentrated under reduced pressure. The residue was purified by prep-HPLC (Gilson GX 281, Shim-pack PRC-ODS 250 mm×20 mm×2, gradient: CH3CN/10 mm/L NH4HCO3, 17 min) to afford the desired product (50 mg, yield: 65%). 1H NMR (500 MHz, MeOH-d4): δ 8.68 (s, 1H), 8.36 (d, J=5.5 Hz, 1H), 8.27 (d, J=5.5 Hz, 1H), 8.19 (s, 1H), 8.00 (s, 2H), 7.71 (d, J=5.5 Hz, 1H), 7.36 (m, 1H). LC-MS (ESI) m/z: 385.0 [M+H+].

reactant | N-(2-bromopyridin-4-yl)-2,6-dichloro-4-cyanobenzamide | 0.20 mmol, 74 mg | BrC1=NC=CC(=C1)NC(C1=C(C=C(C=C1Cl)C#N)Cl)=O | C13H6BrCl2N3O
reactant | pyrimidin-4-amine | 0.40 mmol, 38 mg | N1=CN=C(C=C1)N | C4H5N3
reactant | Xantphos | 0.040 mmol, 23 mg | CC1(C2=C(C(=CC=C2)P(C3=CC=CC=C3)C4=CC=CC=C4)OC5=C(C=CC=C51)P(C6=CC=CC=C6)C7=CC=CC=C7)C | C39H32OP2
reactant | Cs2CO3 | 0.40 mmol, 131 mg | C(=O)([O-])[O-].[Cs+].[Cs+]
catalyst | Pd2(dba)3 | 0.020 mmol, 18 mg | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
solvent | dioxane | 1.2 mL | O1CCOCC1 | C4H8O2
product | 2,6-dichloro-4-cyano-N-(2-(pyrimidin-4-ylamino)pyridin-4-yl)benzamide | 50 mg, yield: 65% | ClC1=C(C(=O)NC2=CC(=NC=C2)NC2=NC=NC=C2)C(=CC(=C1)C#N)Cl | C17H10Cl2N6O
